US07138406B2
(4aR)-4a-allyl-7-methoxy-4,4a,9,10-tetrahydro-3H-phenanthren-2-one was prepared in three steps from 6-methoxy-2-tetralone and allyl bromide in a manner analogous to that described for the synthesis of (4aR)-4a-ethyl-7-methoxy-4,4a,9,10-tetrahydro-3H-phenanthren-2-one in Preparations 1a to 1c.

reactant | 6-methoxy-2-tetralone | COC=1C=C2CCC(CC2=CC1)=O | C11H12O2
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | (4aR)-4a-ethyl-7-methoxy-4,4a,9,10-tetrahydro-3H-phenanthren-2-one | C(C)[C@]12CCC(C=C2CCC2=CC(=CC=C12)OC)=O | C17H20O2
product | (4aR)-4a-allyl-7-methoxy-4,4a,9,10-tetrahydro-3H-phenanthren-2-one | C(C=C)[C@@]12CCC(C=C2CCC2=CC(=CC=C12)OC)=O | C18H20O2
